US05001125
A mixture of 6 parts of 3-[4-(3-methylphenyl)-1-piperazinyl]-6-(phenylmethoxy)pyridazine and 60 parts of concentrate hydrochloric acid was stirred and refluxed for 3 hours. The whole was allowed to stand overnight and treated with concentrate ammonium hydroxide. The product was filtered off, washed with water and dissolved in trichloromethane. The organic layer was dried, filtered and evaporated. The residue was crystallized from a mixture of 2-propanol and 2,2'-oxybispropane. The product was filtered off and dried, yielding 4.5 parts (98%) of 6-[4-(3-methylphenyl)-1-piperazinyl]-3(2H)-pyridazinone; mp. 209.8° C. (compound 271).

reactant | 3-[4-(3-methylphenyl)-1-piperazinyl]-6-(phenylmethoxy)pyridazine | CC=1C=C(C=CC1)N1CCN(CC1)C=1N=NC(=CC1)OCC1=CC=CC=C1 | C22H24N4O
reactant | hydrochloric acid | Cl | ClH
reactant | ammonium hydroxide | [OH-].[NH4+]
product | 6-[4-(3-methylphenyl)-1-piperazinyl]-3(2H)-pyridazinone | 98% | CC=1C=C(C=CC1)N1CCN(CC1)C=1C=CC(NN1)=O | C15H18N4O
